US05438054
To a solution of p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (110 mg, 0,195 mmol) in acetonitrile (5 ml) was added in a nitrogen stream at -10° C. a solution of (2S,4S)-2-(2-azetidinon-4-yl)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine diastereomer B (67 mg, 0.191 mmol, compound of Reference Example 3) in acetonitrile (5 ml), and then N,N-diisopropylamine (34 μl, 0.21 mmol) was dropwise added thereto. The mixture was stirred overnight at 4° C. Then, ethyl acetate (50 ml) was added to the reaction solution. This mixture was washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (Wakogel™ C-300, 3% methanol-chloroform) to obtain p-nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-(2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate diastereomer B (88.5 mg, yield: 68.2%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0,195 mmol, 110 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (2S,4S)-2-(2-azetidinon-4-yl)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine | N1C(CC1[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H17N3O5S
reactant | N,N-diisopropylamine | 0.21 mmol, 34 μl | C(C)(C)NC(C)C | C6H15N
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | p-nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-(2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | yield: 68.2% | N1C(CC1[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O | C32H33N5O11S
